US06054470
A mixture of 4-methyl-3-nitro-2-pyridone (0.93 g, 6.0 mmol) and sodium hydride (60% in oil, 0.25 g, 6.3 mmol) in DMF (20 mL) was stirred at rt for 1 hour. 4-Methoxycyclohexylmethylbromide (1.5 g, 7.2 mmol) in DMF (5 mL) was added. After 60 hours, the mixture was diluted with water, and extracted with ethyl acetate. The organic phase was washed, dried (MgSO4), and evaporated. Chromatography of the residue over silica gel (ethyl acetate/hexane 1/1 to 3/1) gave cis-3-nitro-1-(4-methoxycyclohexylmethyl)-4-methyl-2-pyridone which crystallized from ethyl acetate/hexane (0.16 g, 10%) and trans-3-nitro-1-(4-methoxycyclohexylmethyl)-4-methyl-2-pyridone which crystallized from ethyl acetate/hexane (0.18 g, 11%).

reactant | 4-methyl-3-nitro-2-pyridone | 6.0 mmol, 0.93 g | CC1=C(C(NC=C1)=O)[N+](=O)[O-] | C6H6N2O3
reactant | sodium hydride | 6.3 mmol, 0.25 g | [H-].[Na+]
reactant | 4-Methoxycyclohexylmethylbromide | 7.2 mmol, 1.5 g | COC1CCC(CC1)CBr | C8H15BrO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | cis-3-nitro-1-(4-methoxycyclohexylmethyl)-4-methyl-2-pyridone | [N+](=O)([O-])C=1C(N(C=CC1C)C[C@@H]1CC[C@@H](CC1)OC)=O | C14H20N2O4
